US04665257
The process of this invention for synthesis of 2,3-diphenyl-1,3-butadiene is comprised of a four step procedure wherein the starting compound acetophenone is dimerized under an ultra violet reaction process to yield acetophenone pinacol which is subsequently converted to 2,3-diphenyl-2-butene in the step 2 procedure. The 2,3-diphenyl-2-butene is then reacted with N-bromosuccinimide (NBS) in an ultra violet reactor in a CCl4 reaction solvent to form 1,4-dibromo-2,3-diphenyl-2-butene in the step 3 procedure. The 1,4-dibromo-2,3-diphenyl-2-butene is reacted with NaI in a hot acetone solution to yield 2,3-diphenyl-1,3-butadiene in the step 4 procedure.

reactant | 1,4-dibromo-2,3-diphenyl-2-butene | BrCC(=C(CBr)C1=CC=CC=C1)C1=CC=CC=C1 | C16H14Br2
reactant | NaI | [Na+].[I-]
solvent | acetone | CC(=O)C | C3H6O
product | 2,3-diphenyl-1,3-butadiene | C1(=CC=CC=C1)C(=C)C(=C)C1=CC=CC=C1 | C16H14
